US07282512B2
To a solution of 1.00 g (8.62 mmol) of [1-(hydroxymethyl)cyclobutyl]methanol in 20 ml of (1:1) tetrahydrofuran:dimethylforamide was added a 60% dispersion of 0.413 g (8.62 mmol) of sodium hydride in oil. The reaction was stirred for 15 min and 1.28 g (8.62 mmol) of 2,4-dichloropyrimidine was added. After stirring for 2 h, the reaction was concentrated under vacuum and the residue was purified using silica gel chromatography eluting with ethyl acetate:hexane (4:6) to afford 0.9 g (51%) of (1-{[(2-chloro-4-pyrimidinyl)oxy]methyl}cyclobutyl)methanol as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 8.32 (d, J=6 Hz, 1H), 6.69 (d, J=7 Hz, 1H), 4.51 (s, 2H), 3.67 (s, 2H), 2.35 (br s, 1H), 2.05-1.87 (m, 6H).

reactant | [1-(hydroxymethyl)cyclobutyl]methanol | 8.62 mmol, 1.00 g | OCC1(CCC1)CO | C6H12O2
reactant | dimethylforamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | 8.62 mmol, 0.413 g | [H-].[Na+]
reactant | 2,4-dichloropyrimidine | 8.62 mmol, 1.28 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (1-{[(2-chloro-4-pyrimidinyl)oxy]methyl}cyclobutyl)methanol | 0.9 g, 51% | ClC1=NC=CC(=N1)OCC1(CCC1)CO | C10H13ClN2O2
